US05089485
A mixture of 3-(1-chlorotridecyl)-5-trimethylsilylfuran, methyl mercaptan and potassium methoxide in tetrahydrofuran is stirred at room temperature to give 3-(1-methylthiotridecyl)-5-trimethylsilylfuran. Oxidizing using Rose Bengal by the procedure of Example 1 gives 4-(1-methylthiotridecyl)-5-hydroxy-2(5H)-furanone.

reactant | 3-(1-chlorotridecyl)-5-trimethylsilylfuran | ClC(CCCCCCCCCCCC)C1=COC(=C1)[Si](C)(C)C | C20H37ClOSi
reactant | methyl mercaptan | CS | CH4S
reactant | potassium methoxide | C[O-].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(1-methylthiotridecyl)-5-trimethylsilylfuran | CSC(CCCCCCCCCCCC)C1=COC(=C1)[Si](C)(C)C | C21H40OSSi
